US07432293B2
3-{5-[6-(Isobutyl-methyl-amino)-pyridin-3-yl]-isoxazol-3-yl}-benzoic acid:
In a pressure tube, 200 mg (0.64 mmol) of 3-[5-(6-chloro-pyridin-3-yl)-isoxazol-3-yl]-benzoic acid, 97 mg (0.96 mmol, 1.5 eq.) of triethyl amine and 166 mg (1.9 mmol, 3.0 eq.) of isobutyl-methyl-amine are dissolved in 3 ml of THF. The reaction mixture is heated to 120° C. and after 6 h to 150° C. After 60 h, the mixture is cooled to room temperature and the solvent is removed. After addition of 10 ml of water, the pH is adjusted to 2 and the precipitate filtered off. The solid is then dissolved in 10 ml of methanol and 5 ml of dichloroethane, precipitated through addition of 10 ml of hexane and filtered. Recrystallisation from 15 ml of dichloromethane and 1 ml of methanol yields the title compound as a white solid. Mass spectrum: m/z (M+H)+: 352.2

reactant | 3-[5-(6-chloro-pyridin-3-yl)-isoxazol-3-yl]-benzoic acid | 0.64 mmol, 200 mg | ClC1=CC=C(C=N1)C1=CC(=NO1)C=1C=C(C(=O)O)C=CC1 | C15H9ClN2O3
reactant | triethyl amine | 0.96 mmol, 97 mg, 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | isobutyl-methyl-amine | 1.9 mmol, 166 mg, 3.0 eq. | C(C(C)C)NC | C5H13N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-{5-[6-(Isobutyl-methyl-amino)-pyridin-3-yl]-isoxazol-3-yl}-benzoic acid | C(C(C)C)N(C1=CC=C(C=N1)C1=CC(=NO1)C=1C=C(C(=O)O)C=CC1)C | C20H21N3O3
